US07671080B2
To a solution of 4,4,4-trifluoro-3-hydroxy-3-methylbutyric acid (1.81 g, 10.0 mmol) in methanol (10 ml) was added (trimethylsilyl)diazomethane (10 ml), dropwise. The reaction was then stirred at room temperature for 4 h. Removal of the solvent afforded the crude 3-(trifluoromethyl)-3-hydroxybutyric acid methyl ester as a yellow oil (1.92 g, 100%).

reactant | 4,4,4-trifluoro-3-hydroxy-3-methylbutyric acid | 10.0 mmol, 1.81 g | FC(C(CC(=O)O)(C)O)(F)F | C5H7F3O3
reactant | (trimethylsilyl)diazomethane | 10 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 10 ml | CO | CH4O
product | 3-(trifluoromethyl)-3-hydroxybutyric acid methyl ester | 1.92 g, 100% | COC(CC(C)(O)C(F)(F)F)=O | C6H9F3O3
